US06121272
1-[(4-n-Butoxyphenyl)sulfonyl]pipecolinic acid (4a):
Pipecolinic acid (0.331 g, 2.56 mmol) is dissolved in 16 mL mixture of water and p-dioxane (1:1) followed by the addition of triethyl amine (0.78 mL, 5.64 mmol), 4-butoxyphenylsulfonyl chloride (0.67 g, 2.69 mmol), and 4-dimethylaminopyridine (0.031 g, 0.25 mmol). The resulting solution is stirred at room temperature overnight. The reaction mixture is acidified with 1N HCl and extracted three times with ethyl acetate. The combined organic extracts are washed with ammonium chloride, dried (MgSO4), filtered and evaporated to give the crude compound. Cl+ MS: m/z (rel intensity) 342 (M+ +H, 100).

reactant | Pipecolinic acid | 2.56 mmol, 0.331 g | N1C(C(=O)O)CCCC1 | C6H11NO2
reactant | triethyl amine | 5.64 mmol, 0.78 mL | C(C)N(CC)CC | C6H15N
reactant | 4-butoxyphenylsulfonyl chloride | 2.69 mmol, 0.67 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
solvent | p-dioxane | O1CCOCC1 | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.25 mmol, 0.031 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-[(4-n-Butoxyphenyl)sulfonyl]pipecolinic acid | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1C(C(=O)O)CCCC1 | C16H23NO5S
